US06974819B2
1.2. 9-[2-(2-Methoxyphenyl)ethyl]-2-pyridin-4-yl-6,7,8,9-tetrahydro-4H-pyrimido[1,2-a]pyrimidin-4-one (Z)-but-2-enedioate (1:1)
A suspension of 0.25 g (1.09 mmol) of 2-pyridin-4-yl-6,7,8,9-tetrahydro-4H-pyrimido[1,2-a]pyrimidin-4-one in 3 ml of anhydrous dimethylformamide was treated with 57 mg (1.42 mmol) of sodium hydride (60% suspension in mineral oil) and the resulting mixture was heated at 70° C. for 30 min. 0.327 g (1.42 mmol) of 1-[2-(methylsulfonyloxy)ethyl]-2-methoxybenzene (prepared according to J. Med. Chem. 1983, 26(1), 42) was added and the reaction mixture was heated at 130° C. during 1 h. The cooled solution was treated with water and extracted with ethyl acetate. The organic phase was dried and evaporated to give crude product, which was purified by silica gel chromatography, eluting with dichloromethane/methanol in the proportions 100/0 to 95/5. The 0.338 g of pure product obtained in the form of free base was dissolved in hot ethanol and treated with 1 equivalent of (Z)-but-2-enedioïc acid. The cooled solution was filtered to afford 0.325 g (62%) of white solid. Mp: 157-160° C.

reactant | 2-pyridin-4-yl-6,7,8,9-tetrahydro-4H-pyrimido[1,2-a]pyrimidin-4-one | 1.09 mmol, 0.25 g | N1=CC=C(C=C1)C=1N=C2N(C(C1)=O)CCCN2 | C12H12N4O
reactant | sodium hydride | 1.42 mmol, 57 mg | [H-].[Na+]
reactant | 1-[2-(methylsulfonyloxy)ethyl]-2-methoxybenzene | 1.42 mmol, 0.327 g | CS(=O)(=O)OCCC1=C(C=CC=C1)OC | C10H14O4S
reactant | water | O | H2O
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 9-[2-(2-Methoxyphenyl)ethyl]-2-pyridin-4-yl-6,7,8,9-tetrahydro-4H-pyrimido[1,2-a]pyrimidin-4-one (Z)-but-2-enedioate | 0.338 g | C(\C=C/C(=O)O)(=O)O.COC1=C(C=CC=C1)CCN1CCCN2C1=NC(=CC2=O)C2=CC=NC=C2 | InChI=1S/C21H22N4O2.C4H4O4/c1-27-19-6-3-2-5-17(19)9-14-24-12-4-13-25-20(26)15-18(23-21(24)25)16-7-10-22-11-8-16;5-3(6)1-2-4(7)8/h2-3,5-8,10-11,15H,4,9,12-14H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1-
